US05206371
A solution of O-benzyl hydroxylamine was prepared by dissolving 2 g of sodium hydroxide (0.05 mol) and 8 g of O-benzyl hydroxylamine hydrochloride (0.05 mol) in 50 mL of 50% ethanol-water. To this solution was added 6.15 g of 2-formyl-3-hydroxypyridine (0.05 mol). The mixture was stirred for 3 h at room temperature. The precipitate was then filtered and air dried to yield 10.3 g (90.3%) of pure product; m.p. 64°-65° C. 1H NMR (CDCl3) δ: 9.72 (s, 1H, OH); 8.37 (s, 1H, CH=N); 8.13 (d of d, J=2H, J=4 Hz, 1H); 7.33 (m, 7H); 5.17 (s, 2H, CH2). Anal. Calcd. for C13H12N2O2 : C, 68.41; H, 5.30; N, 12.27. Found: C, 68.34; H, 5.32; N, 12.21.

reactant | sodium hydroxide | 0.05 mol, 2 g | [OH-].[Na+]
reactant | O-benzyl hydroxylamine hydrochloride | 0.05 mol, 8 g | Cl.C(C1=CC=CC=C1)ON
reactant | 2-formyl-3-hydroxypyridine | 0.05 mol, 6.15 g | C(=O)C1=NC=CC=C1O | C6H5NO2
solvent | ethanol water | 50 mL | C(C)O.O
product | O-benzyl hydroxylamine | C(C1=CC=CC=C1)ON | C7H9NO
